US05686458
Preparation 1-8: 1-Cyclopropyl-1,2,3,4-Tetrahydroisoquinoline
In accordance with the same procedures as in Preparation 1-1, except that 12.5 ml of phenethylamine (0.1M) and 10 ml of cyclopropane carbonylchloride(0.11M) were used as starting materials, 2.5 g of the title compound was prepared.

reactant | phenethylamine | 0.1M, 12.5 ml | C(CC1=CC=CC=C1)N | C8H11N
reactant | cyclopropane carbonylchloride | 0.11M, 10 ml | C1(CC1)C(=O)Cl | C4H5ClO
product | 1-Cyclopropyl-1,2,3,4-Tetrahydroisoquinoline | 2.5 g | C1(CC1)C1NCCC2=CC=CC=C12 | C12H15N
